US07576072B2
Step H: Preparation of 7-fluoro-6-(2-fluorophenylamino)-3-methyl-isoxazolo[4,5-b]pyridine-5-carboxylic acid methyl ester:
To a solution of acetone oxime (2.20 equivalents) at room temperature is added t-BuOK (2.20 equivalents, 1.0 M solution in THF). After stirring for 30 minutes room temperature, the reaction mixture is cooled to 0° C. A solution 6-acetyl-5-chloro-4-fluoro-3-(2-fluorophenylamino)-pyridine-2-carboxylic acid methyl ester (1.00 equivalent) in THF is added. After stirring for 1 hour at 0-5° C., the reaction mixture is quenched with saturated aqueous NH4Cl and diluted with EtOAc. The organic layer is washed with brine, dried over MgSO4, concentrated in vacuo to give 6-acetyl-4-fluoro-3-(2-fluorophenylamino)-5-isopropylideneaminooxy-pyridine-2-carboxylic acid methyl ester that is used directly. A mixture of 6-acetyl-4-fluoro-3-(2-fluorophenylamino)-5-isopropylideneaminooxy-pyridine-2-carboxylic acid methyl ester in 5% aqueous MeOH is refluxed with stirring for 1 hour. The reaction mixture is diluted with EtOAc and washed with water. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to give the crude material that is purified by flash column chromatography to afford the desired product.

reactant | 6-acetyl-4-fluoro-3-(2-fluorophenylamino)-5-isopropylideneaminooxy-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C(=C1NC1=C(C=CC=C1)F)F)ON=C(C)C)C(C)=O | C18H17F2N3O4
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-fluoro-6-(2-fluorophenylamino)-3-methyl-isoxazolo[4,5-b]pyridine-5-carboxylic acid methyl ester | COC(=O)C1=C(C(=C2C(=N1)C(=NO2)C)F)NC2=C(C=CC=C2)F | C15H11F2N3O3
